US05149864
N-(N'-Octylcarbamoyl)peroxysuccinamic acid
13.6 g (0.05 mol) of N-(N'-octylcarbamoyl)succinamic acid, 50 g of methanesulfonic acid and 6 g (0.15 mol) of hydrogen peroxide (85% strength by weight) are reacted and worked up as described in Example 3.

reactant | N-(N'-octylcarbamoyl)succinamic acid | 0.05 mol, 13.6 g | C(CCCCCCC)NC(=O)NC(CCC(=O)O)=O | C13H24N2O4
reactant | methanesulfonic acid | 50 g | CS(=O)(=O)O | CH4O3S
reactant | hydrogen peroxide | 0.15 mol, 6 g | OO | H2O2
product | N-(N'-Octylcarbamoyl)peroxysuccinamic acid | C(CCCCCCC)NC(=O)NC(CCC(=O)OO)=O | C13H24N2O5
